US04219657
A mixture of 2.76 g. of 8-chlorodibenzothiophene-3-acetic acid, 3.04 g. of potassium carbonate, 1.73 g. of dimethylaminoethyl chloride hydrochloride, and 250 ml. of dimethylformamide was stirred and heated at 120° for 4 hours. The solvent was removed in vacuo on the steam bath, and 75 ml. of water added to the residue. The oil was extracted with ethyl acetate and the crude product precipitated as the hydrochloride by the addition of hydrogen chloride. On crystallization from acetone, 1.5 g. of 8-chlorodibenzothiophene-3-acetic acid 2-dimethylaminoethyl ester hydrochloride, m.p. 179°-181°, was obtained.

reactant | 8-chlorodibenzothiophene-3-acetic acid | ClC=1C=CC2=C(C3=C(S2)C=C(C=C3)CC(=O)O)C1 | C14H9ClO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylaminoethyl chloride hydrochloride | Cl.CN(C)CCCl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chlorodibenzothiophene-3-acetic acid 2-dimethylaminoethyl ester hydrochloride | Cl.CN(CCOC(CC=1C=CC2=C(SC3=C2C=C(C=C3)Cl)C1)=O)C | InChI=1S/C18H18ClNO2S.ClH/c1-20(2)7-8-22-18(21)10-12-3-5-14-15-11-13(19)4-6-16(15)23-17(14)9-12;/h3-6,9,11H,7-8,10H2,1-2H3;1H
